US05665841
In a 500 ml flask, 120 ml of acetonitrile, 13.8 g of 4-hydroxybenzaldehyde, 21.1 g of 2-(2-bromoethyl)-1,3-dioxane, 1.8 g of potassium iodide, and 35.8 g of potassium carbonate were placed and then, reacted at 80° C. for 5 hrs. Thereafter, 200 ml of ethyl acetate was added to the reaction mixture and washed once with a saturated aqueous potassium carbonate solution, distilled water, and saturated saline. The washed organic phase was dried over anhydrous magnesium sulfate and removed solvent, to give 25.6 g of 4-(2-[1,3]-dioxane-2-yl-ethoxy)benzaldehyde.

reactant | 4-hydroxybenzaldehyde | 13.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-(2-bromoethyl)-1,3-dioxane | 21.1 g | BrCCC1OCCCO1 | C6H11BrO2
reactant | potassium iodide | 1.8 g | [I-].[K+]
reactant | potassium carbonate | 35.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 4-(2-[1,3]-dioxane-2-yl-ethoxy)benzaldehyde | 25.6 g | O1C(OCCC1)CCOC1=CC=C(C=O)C=C1 | C13H16O4
